US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 20 mg, 0.046 mmol) was dissolved in DMF (1 mL) prior to the addition of 4-methylmorpholine (0.031 mL, 0.278 mmol), pyridin-2-ylmethanamine (9.03 mg, 0.083 mmol), and BOP (36.9 mg, 0.083 mmol). This was stirred overnight and was then purified via preparative LCMS with the following conditions: Column: Waters XBridge C18, 19×250 mm, 5-μm particles; Guard Column: Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: 5:95 methanol:water with 10-mM ammonium acetate; Mobile Phase B: 95:5 methanol:water with 10-mM ammonium acetate; Gradient: 50-100% B over 25 minutes, then a 5-minute hold at 100% B; Flow rate=20 mL/min. Fractions containing the desired product were combined and dried via centrifugal evaporation to give (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)-N-(pyridin-2-ylmethyl)acetamide (9.9 mg, 0.019 mmol, 40.5% yield): LCMS=522.0 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.47 (1H, dd, J=5.40, 1.88 Hz), 8.11-8.23 (2 H, m), 7.62-7.77 (5 H, m), 7.48-7.61 (3 H, m), 7.21-7.32 (2 H, m), 5.20 (1 H, s), 4.44-4.62 (2 H, m); Analytical LCMS: column: Mac-mod Halo C18, 4.6×50 mm, 2.7-μm particles; Mobile Phase A: 5:95 acetonitrile:water with 0.05% TFA; Mobile Phase B: 90:10 acetonitrile:water with 0.05% TFA; Temperature: 45° C.; Gradient: 0-100% B over 4 minutes, flow rate=4 mL/min, product retention=2.1 min.

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.046 mmol, 20 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 4-methylmorpholine | 0.278 mmol, 0.031 mL | CN1CCOCC1 | C5H11NO
reactant | pyridin-2-ylmethanamine | 0.083 mmol, 9.03 mg | N1=C(C=CC=C1)CN | C6H8N2
reactant | BOP | 0.083 mmol, 36.9 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)-N-(pyridin-2-ylmethyl)acetamide | 0.019 mmol, 9.9 mg, 40.5% yield | OC(C(=O)NCC1=NC=CC=C1)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C26H18F3N5O4
